US04866089
Preparation of 6,7-bis-(trifluoroethoxy)-2,2-dimethyl-4-chromanone
In 100 ml of N,N-dimethyl-formamide 4.2 g (20 millimoles) of 6,7-dihydroxy-2,2-dimethyl-4-chromanone are dissolved under nitrogen whereupon 8.3 g (60 millimoles) of potassium carbonate and 11.5 g (45 millimoles) of trifluoroethoxy tosylate are added. The reaction mixture is stirred at 120° C. for 10 hours, poured onto 200 ml of crushed ice, 100 ml of saturated sodium hydrogen carbonate solution are added and the mixture is extracted three times with 50 ml of carbon tetrachloride each. The organic phase is washed twice with 100 ml of water each, dried over anhydrous sodium sulfate and the solvent is removed. The residue is crystallized from ethanol. Thus 4.8 g of the desired compound are obtained, yield 65%. Mp.: 92°-93° C.

reactant | N,N-dimethyl-formamide | 20 millimoles, 100 ml, 4.2 g | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 60 millimoles, 8.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | trifluoroethoxy tosylate | 45 millimoles, 11.5 g | S(=O)(=O)(OOCC(F)(F)F)C1=CC=C(C)C=C1 | C9H9F3O4S
reactant | sodium hydrogen carbonate | 100 ml | C(O)([O-])=O.[Na+]
reactant | 6,7-dihydroxy-2,2-dimethyl-4-chromanone | OC=1C=C2C(CC(OC2=CC1O)(C)C)=O | C11H12O4
product | 6,7-bis-(trifluoroethoxy)-2,2-dimethyl-4-chromanone | 4.8 g, yield 65% | FC(COC=1C=C2C(CC(OC2=CC1OCC(F)(F)F)(C)C)=O)(F)F | C15H14F6O4
